US04957927
Proceeding as in Example 9, using 14.8 g (45 mmole) of 1-[bis(4-fluorophenyl)methoxy]-2-bromoethane, 9.4 g (45 mmole) of 3-(3,5-dimethoxyphenyl)pyrrolidine and 12 g (86 mmole) of potassium carbonate, there was obtained after silica gel column chromatography (eluent chloroform-methanol, 9/1), 9.5 g (yield: 46%) of 1-[2-[bis(4-fluorophenyl)methoxy]ethyl]-3-(3,5-dimethoxy phenyl)pyrrolidine.

reactant | 1-[bis(4-fluorophenyl)methoxy]-2-bromoethane | 45 mmole, 14.8 g | FC1=CC=C(C=C1)C(OCCBr)C1=CC=C(C=C1)F | C15H13BrF2O
reactant | 3-(3,5-dimethoxyphenyl)pyrrolidine | 45 mmole, 9.4 g | COC=1C=C(C=C(C1)OC)C1CNCC1 | C12H17NO2
reactant | potassium carbonate | 86 mmole, 12 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 1-[2-[bis(4-fluorophenyl)methoxy]ethyl]-3-(3,5-dimethoxy phenyl)pyrrolidine | 9.5 g, yield: 46% | FC1=CC=C(C=C1)C(OCCN1CC(CC1)C1=CC(=CC(=C1)OC)OC)C1=CC=C(C=C1)F | C27H29F2NO3
